US04698094
3.3 g of 3-(2'-chloro-4'-trifluoromethylphenoxy)phenylacetic acid and 1.5 g of 2-methoxyethanol were dissolved in 50 ml of benzene, followed by addition of 0.5 g of p-toluene sulfonic acid. Then, the mixture was heated under reflux for 3 hours. After completion of the reaction, to the reaction mixture was added 50 ml of ether. The resulting mixture was washed with water by the customary method and dried over anhydrous sodium sulfate, followed by evaporation-removal of the solvent under reduced pressure, thereby to obtain 3.9 g of 2-methoxyethyl 3-(2'-chloro-4'-trifluoromethylphenoxy)phenylacetate.

reactant | 3-(2'-chloro-4'-trifluoromethylphenoxy)phenylacetic acid | 3.3 g | ClC1=C(OC=2C=C(C=CC2)CC(=O)O)C=CC(=C1)C(F)(F)F | C15H10ClF3O3
reactant | 2-methoxyethanol | 1.5 g | COCCO | C3H8O2
reactant | p-toluene sulfonic acid | 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ether | 50 ml | CCOCC | C4H10O
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 2-methoxyethyl 3-(2'-chloro-4'-trifluoromethylphenoxy)phenylacetate | 3.9 g | ClC1=C(OC=2C=C(C=CC2)CC(=O)OCCOC)C=CC(=C1)C(F)(F)F | C18H16ClF3O4
